US06936607B2
8-[2-(4-BENZYL-1-PIPERAZINYL)-6-CHLORO-4-PYRIMIDINYL]-1,4-DIOXA-8-AZASPIRO[4.5]DECANE:
1-Benzylpiperazine (7.59 g, 43.1 mmol) was added to a solution of 8-(2,6-dichloro-4-pyrimidinyl)-1,4-dioxa-8-azaspiro[4.5]decane (10.0 g, 34.5 mmol) in tetrahydrofuran (100 mL), followed by diisopropylamine (9.26 g, 71.7 mmol). The reaction mixture was then heated at reflux overnight. The crude product was concentrated under reduced pressure and the residue was re-dissolved in CH2C12 and then washed with aqueous citric acid (2×100 mL) and brine (2×200 mL). The organic layer was dried over -anhydrous Na2SO4 and filtered. Upon standing, crystallization occurred, giving the desired product (12.4 g, 84%).

reactant | 1-Benzylpiperazine | 43.1 mmol, 7.59 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 8-(2,6-dichloro-4-pyrimidinyl)-1,4-dioxa-8-azaspiro[4.5]decane | 34.5 mmol, 10.0 g | ClC1=NC(=CC(=N1)N1CCC2(OCCO2)CC1)Cl | C11H13Cl2N3O2
reactant | diisopropylamine | 71.7 mmol, 9.26 g | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 8-[2-(4-BENZYL-1-PIPERAZINYL)-6-CHLORO-4-PYRIMIDINYL]-1,4-DIOXA-8-AZASPIRO[4.5]DECANE | 12.4 g, 84% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)N1CCC2(OCCO2)CC1)Cl | C22H28ClN5O2
